US04839360
To a solution of 10.6 g of 4-(4-chlorobenzoyl)butanoic acid and 1.9 g of sodium hydroxide in 50 ml of water was added under ice-cooling 2.7 g of sodium borohydride portionwise over 35 minutes, and the mixture was stirred at room temperature for 24 hours. The mixture was made acidic with diluted hydrochloric acid under ice-cooling, extracted with ether. The ether extract was washed with water and dried. After removal of the solvent, the residue was recrystallized from a mixture of ethyl acetate-n-hexane to give 7.50 g of 5-(4-chlorophenyl)-5-hydroxypentanoic acid as colorless crystals.

reactant | 4-(4-chlorobenzoyl)butanoic acid | 10.6 g | ClC1=CC=C(C(=O)CCCC(=O)O)C=C1 | C11H11ClO3
reactant | sodium hydroxide | 1.9 g | [OH-].[Na+]
reactant | sodium borohydride | 2.7 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 5-(4-chlorophenyl)-5-hydroxypentanoic acid | 7.50 g, Yield: 70% | ClC1=CC=C(C=C1)C(CCCC(=O)O)O | C11H13ClO3
